US07517889B2
To a solution of 1-(6-chloro-2-methoxy-pyrimidin-4-yl)-piperidine-4-carboxylic acid [131 mg, 0.48 mmol] in MeOH (1 mL) and toluene (1 mL) is added a solution of 2 M diazomethane in diethylether (0.48 mL, 0.96 mmol). The solution is stirred for 2 h at ambient temperature and concentrated. The residue is subjected to chromatography on silica gel eluting with 40% ethyl acetate:heptane to afford 1-(6-chloro-2-methoxy-pyrimidin-4-yl)-piperidine-4-carboxylic acid methyl ester [103 mg, 75%] as a solid.

reactant | 1-(6-chloro-2-methoxy-pyrimidin-4-yl)-piperidine-4-carboxylic acid | 0.48 mmol, 131 mg | ClC1=CC(=NC(=N1)OC)N1CCC(CC1)C(=O)O | C11H14ClN3O3
reactant | diazomethane | 2 M | [N+](=[N-])=C | CH2N2
reactant | diethylether | 0.96 mmol, 0.48 mL | C(C)OCC | C4H10O
solvent | MeOH | 1 mL | CO | CH4O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-chloro-2-methoxy-pyrimidin-4-yl)-piperidine-4-carboxylic acid methyl ester | 103 mg, 75% | COC(=O)C1CCN(CC1)C1=NC(=NC(=C1)Cl)OC | C12H16ClN3O3
